US09108939B2
D: 1-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1H-benzo[d]imidazol-5-yl)-3-(pyridin-4-yl)urea
2-(4-((4-(5-Amino-1H-benzo[d]imidazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.212 mmol, 0.1 g) and phenyl pyridin-4-ylcarbamate (0.318 mmol, 0.068 g) were combined and heated in a Reactivial in dioxane (2 mL) for 2 days. The solvent was removed and the resulting residue purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 8% methanol/dichloromethane) to afford the title compound (14 mg). MS (ESI) m/z 593.2 [M+H]+

reactant | 2-(4-((4-(5-Amino-1H-benzo[d]imidazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.212 mmol, 0.1 g | NC1=CC2=C(N(C=N2)C2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C22H22F6N4O
reactant | phenyl pyridin-4-ylcarbamate | 0.318 mmol, 0.068 g | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(1-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-1H-benzo[d]imidazol-5-yl)-3-(pyridin-4-yl)urea | 14 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)N2C=NC3=C2C=CC(=C3)NC(=O)NC3=CC=NC=C3)C=C1)(F)F | C28H26F6N6O2
